US08541588B2
2,5-difluoro-4-[2-(1H-pyrazol-5-yl)-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
A suspension of N-(2,4-dimethoxybenzyl)-2,5-difluoro-4-[2-iodo-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 363, 100 mg, 0.14 mmol), potassium carbonate (48 mg, 1.12 mmol) and 1-(ethoxymethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (Preparation 337, 70 mg, 0.28 mmol) in 1,4-dioxane (5 mL) and water (2 mL) was degassed and palladium tetrakis (16 mg, 0.014 mmol) added before heating at 80° C. for 16 hours. Dicholoromethane (20 mL) and water (10 mL) were added and the organics separated and evaporated in vacuo to afford the crude product. Dicholoromethane (10 mL) and trifluoroacetic acid (5 mL) were added and the reaction mixture was stirred at room temperature for 16 hours before concentrating in vacuo. Hydrochloric acid (4 M in 1,4-dioxane, 10 mL) was added and the reaction mixture was stirred for 16 hours before concentrating in vacuo. The residue was purified by reverse phase chromatography to afford the desired product, 6 mg, 9% yield.

reactant | N-(2,4-dimethoxybenzyl)-2,5-difluoro-4-[2-iodo-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 0.14 mmol, 100 mg | COC1=C(CN(S(=O)(=O)C2=C(C=C(C(=C2)F)OC2=C(C=C(C=C2)C(F)(F)F)I)F)C2=NC=NS2)C=CC(=C1)OC | C24H17F5IN3O5S2
reactant | potassium carbonate | 1.12 mmol, 48 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(ethoxymethyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.28 mmol, 70 mg | C(C)OCN1N=CC=C1B1OC(C(O1)(C)C)(C)C | C12H21BN2O3
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | palladium tetrakis | 0.014 mmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 10 mL | O | H2O
product | 2,5-difluoro-4-[2-(1H-pyrazol-5-yl)-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 9% yield | FC1=C(C=C(C(=C1)OC1=C(C=C(C=C1)C(F)(F)F)C1=CC=NN1)F)S(=O)(=O)NC1=NC=NS1 | C18H10F5N5O3S2
